US07829588B2
b. Synthesis of {4-[4-(5-Heptyl-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyloxy]phenyl}acetic acid methyl ester
979 mg (2.45 mmol, 3 eq) of resin-supported borohydride and 11 mg (0.02 mmol, 0.03 eq) of bis(bipyridine)dibromonickel (II) are added to a solution of 244 mg (1.22 mmol, 1.5 eq) of 5-heptyl-4-methyl-4H-[1,2,4]-triazole-3-thiol in 4 ml of tetrahydrofuran/ethanol 5/5. To the suspension obtained there is added a solution of 405 mg (0.82 mmol, 1 eq) of [4-(2-heptyloxy-4-iodobenzyloxy)phenyl]acetic acid methyl ester in 4 ml of tetrahydrofuran/ethanol 5/5. The reaction mixture is stirred overnight under reflux. After returning to room temperature, the reaction medium is filtered and then concentrated. The residue is chromatographed on silica gel (heptane/ethyl acetate: gradient from 70/30 to 50/50). After concentration, 427 mg (92%) of the expected compound are obtained.

reactant | borohydride | 2.45 mmol, 979 mg, 3 eq | [BH4-]
reactant | 5-heptyl-4-methyl-4H-[1,2,4]-triazole-3-thiol | 1.22 mmol, 244 mg, 1.5 eq | C(CCCCCC)C=1N(C(=NN1)S)C | C10H19N3S
reactant | [4-(2-heptyloxy-4-iodobenzyloxy)phenyl]acetic acid methyl ester | 0.82 mmol, 405 mg, 1 eq | COC(CC1=CC=C(C=C1)OCC1=C(C=C(C=C1)I)OCCCCCCC)=O | C23H29IO4
solvent | tetrahydrofuran ethanol | 4 ml | O1CCCC1.C(C)O
solvent | tetrahydrofuran ethanol | 4 ml | O1CCCC1.C(C)O
product | {4-[4-(5-Heptyl-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyloxy]phenyl}acetic acid methyl ester | COC(CC1=CC=C(C=C1)OCC1=C(C=C(C=C1)SC1=NN=C(N1C)CCCCCCC)OCCCCCCC)=O | C33H47N3O4S
